2135-01-09 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PHERESIS CATHETER - START [**2135-1-8**] 01:30 PM
   -started on PPI
   -platelets 11 to 53 after platelet transfusion
   -mild repletion of K and Mg, then calcium
   -pm labs for DIC improving, tumor lysis labs stable except for LDH
   Allergies:
   Penicillins
   angioedema;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-1-9**] 03:28 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   20 gm Calcium Gluconate/ 500 mL D5W 5. Allopurinol 6. Aluminum
   Hydroxide Suspension
   7. Artificial Tears Preserv. Free 8. Calcium Gluconate 9. CefePIME 10.
   Heparin Flush (1000 units/mL)
   11. Heparin Flush (10 units/ml) 12. Heparin Flush (5000 Units/mL) 13.
   Hydroxyurea 14. Levofloxacin
   15. Magnesium Sulfate 16. Ondansetron 17. Pantoprazole 18. Pneumococcal
   Vac Polyvalent 19. Potassium Chloride 10 mEq / 100 mL SW (CRRT Only)
   20. Potassium Chloride 21. Potassium Chloride (Powder) 22. Prismasate
   (B22 K4) 23. Prismasate (B32 K2)*
   24. Sodium Chloride 0.9% Flush 25. Sodium CITRATE 4% 26. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-9**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 72 (68 - 96) bpm
   BP: 104/52(64) {94/43(57) - 127/60(76)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    946 mL
                                                                    820 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    106 mL
                                                                    820 mL
   Blood products:
                                                                    240 mL
   Total out:
                                                                  2,096 mL
                                                                  1,036 mL
   Urine:
                                                                  1,990 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,150 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   31 K/uL
   8.1 g/dL
   119 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   27 mg/dL
   103 mEq/L
   140 mEq/L
   24.0 %
        [image002.jpg]
                            [**2135-1-8**]  06:36 PM
                            [**2135-1-9**]  04:10 AM
   WBC
   21.9
   Hct
   25.9
   24.0
   Plt
   53
   31
   Cr
   1.4
   1.5
   Glucose
   153
   119
   Other labs: PT / PTT / INR:16.9/34.0/1.5, ALT / AST:152/126, Alk Phos /
   T Bili:116/0.6,, Fibrinogen:280 mg/dL, Albumin:2.7 g/dL, LDH:2565 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   Blood 12/19 pending
   Urine [**1-8**] pending
   Blood 12/19 pending
   Urine [**1-7**] negative
   Blood 12/18 pending
   HCV VL, HBV VL [**1-7**] pending
   CT head [**1-8**] final read:
   1. No intracranial hemorrhage or edema.
   2. Prominence of the bifrontal CSF spaces, which may be due to
   parenchymal
   atrophy or chronic subdural hygromas.
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
   80 yo male with no significant PMH, admitted with ALL, initial WBC 137
   with 88% blasts, uric acid of 22 on admission.
   #. Acute myeloid leukemia:
   Presented to hospital with approximately one week of fatigue, anorexia,
   and weight loss. Noted to have initial WBC count of 138k with 84%
   blasts. Was treated initially with leukopheresis and has received total
   of 4 doses of hydroxyurea. Course has been complicated by tumor lysis
   syndrome and disseminated intravascular coagulation.
   - Continue Hydroxyurea 2500 mg [**Hospital1 **] for two additional doses and then
   readdress additional chemotherapy as per bone marrow transplant team
   recommendations
   #. Tumor lysis syndrome:
   Laboratory evidence of tumor lysis has been worsening since initiation
   of treatment of AML. Has received rasburicase. Currently has potassium
   of 3, uric acid of 2.5, phosphate of 11.5, and LDH 2700.
   - Appreciate nephrology recs
   - Paradoxic decrease in potassium due to renal wasting and potassium
   should be aggressively repleted per nephrology recs
   - Maintain alkalemia with goal serum bicarb of 30 to 34
   - Maintain adequate urine output for renal protection
   - Continue Aluminum Hydroxide as well as allopurinol to control phos
   and uric acid leves
   .
   #. Hypotension:
   Likely caused by hypovolemia as patient has been fluid responsive with
   small boluses on the BMT floor. Additional supporting evidence is that
   patient has low urine output, thirst, and visibly dry mucous membranes.
   Patient is without ECHO evidence of systolic dysfunction.
   - Monitor closely during dialysis
   - Fluid bolus as needed to support blood pressure
   #. Hypoxia:
   Likely multifactorial with contributions from pneumonia, edema, and
   possible leukemic infiltrate. Patient with cough productive of thick
   yellow sputum at this time. Presented to the ICU on vancomycin and
   cefepime; however, his pneumonia likely a product of community
   exposure, so he should receive antibiotics for community pathogens. As
   far as edema is concerned, patient is clinically dry and has had
   relative hypotension, so diuresis would be difficult in this setting.
   - Treat AML as above
   - Send sputum for gram stain and culture
   - Continue vancomycin and cefepime
   - Addition of levofloxacin 750 mg Q48H for coverage of
   community-acquired pathogens
   #. Disseminated intravascular coagulation:
   Currently with FDP 80-160, INR 1.7, PLT 11, Fibrinogen 181. Patient has
   not required cryoprecipitate or FFP at this point. Platelet count is
   rapidly falling, though no evidence of bleeding at this point.
   - Monitor Q6H PTT, INR, FDP, fibrinogen, platelets
   - Trend HCT while platelets dropping and elevated INR
   - Platelet transfusion now with post-transfusion PLT count
   - Treat fibrinogen < 100 with cryoprecipitate
   - Treat INR > 2.0 with FFP
   ICU Care
   Nutrition: Regular renal diet
   Lines:
   20 Gauge - [**2135-1-8**] 01:29 PM
   Pheresis line
   Prophylaxis:
   -DVT ppx with pneumoboots while concerned for DIC
   -Bowel regimen as needed for symptoms
   Communication:  [**First Name8 (NamePattern2) 1094**] [**Last Name (NamePattern1) 9968**] (daughter) [**Telephone/Fax (1) 9969**]; also is his HCP
   [**Name (NI) 129**] status: FULL, would not want long term life support
   Disposition: ICU for blood pressure monitoring peri-dialysis

2135-01-09 08:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PHERESIS CATHETER - START [**2135-1-8**] 01:30 PM
   -started on PPI
   -platelets 11 to 53 after platelet transfusion
   -mild repletion of K and Mg, then calcium
   -pm labs for DIC improving, tumor lysis labs stable except for LDH
   Allergies:
   Penicillins
   angioedema;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-1-9**] 03:28 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   20 gm Calcium Gluconate/ 500 mL D5W 5. Allopurinol 6. Aluminum
   Hydroxide Suspension
   7. Artificial Tears Preserv. Free 8. Calcium Gluconate 9. CefePIME 10.
   Heparin Flush (1000 units/mL)
   11. Heparin Flush (10 units/ml) 12. Heparin Flush (5000 Units/mL) 13.
   Hydroxyurea 14. Levofloxacin
   15. Magnesium Sulfate 16. Ondansetron 17. Pantoprazole 18. Pneumococcal
   Vac Polyvalent 19. Potassium Chloride 10 mEq / 100 mL SW (CRRT Only)
   20. Potassium Chloride 21. Potassium Chloride (Powder) 22. Prismasate
   (B22 K4) 23. Prismasate (B32 K2)*
   24. Sodium Chloride 0.9% Flush 25. Sodium CITRATE 4% 26. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: overall this am feels well, no CP, SOB, abd pain,
   N/V.  still feels that hands are swollen
   Flowsheet Data as of  [**2135-1-9**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 72 (68 - 96) bpm
   BP: 104/52(64) {94/43(57) - 127/60(76)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    946 mL
                                                                    820 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    106 mL
                                                                    820 mL
   Blood products:
                                                                    240 mL
   Total out:
                                                                  2,096 mL
                                                                  1,036 mL
   Urine:
                                                                  1,990 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,150 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: NAD
   CV: rrr nl s1/s2 no mrg
   Pulm: cta b/l
   Abd: +BS, soft NTND
   Ext: no edema, warm, NT
   Labs / Radiology
   31 K/uL
   8.1 g/dL
   119 mg/dL
   1.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   27 mg/dL
   103 mEq/L
   140 mEq/L
   24.0 %
   10
        [image002.jpg]
   N44, Band2, lymph8, blast42
                            [**2135-1-8**]  06:36 PM
                            [**2135-1-9**]  04:10 AM
   WBC
   21.9
   Hct
   25.9
   24.0
   Plt
   53
   31
   Cr
   1.4
   1.5
   Glucose
   153
   119
   Other labs: PT / PTT / INR:16.9/34.0/1.5, ALT / AST:152/126, Alk Phos /
   T Bili:116/0.6,, Fibrinogen:280 mg/dL, Albumin:2.7 g/dL, LDH:2565 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.2 mg/dL
   Blood 12/19 pending
   Urine [**1-8**] pending
   Blood 12/19 pending
   Urine [**1-7**] negative
   Blood 12/18 pending
   HCV VL, HBV VL [**1-7**] pending
   CT head [**1-8**] final read:
   1. No intracranial hemorrhage or edema.
   2. Prominence of the bifrontal CSF spaces, which may be due to
   parenchymal
   atrophy or chronic subdural hygromas.
   Assessment and Plan
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
   80 yo male with no significant PMH, admitted with ALL, initial WBC 137
   with 88% blasts, uric acid of 22 on admission.
   #. Acute myeloid leukemia: Presented to hospital with approximately one
   week of fatigue, anorexia, and weight loss. Noted to have initial WBC
   count of 138k with 84% blasts. Was treated initially with leukopheresis
   and has received total of 4 doses of hydroxyurea. Course has been
   complicated by tumor lysis syndrome and disseminated intravascular
   coagulation.
   - readdress additional chemotherapy as per bone marrow transplant team
   recommendations- will likely have 2 additional doses ordered beyond the
   single dose already ordered for today and then possibly Gemcitabine
   #. Tumor lysis syndrome:
   Laboratory evidence of tumor lysis has been worsening since initiation
   of treatment of AML but improved since dialysis. Has received
   rasburicase. Currently has potassium of 4.2, uric acid of 1.0,
   phosphate of 5.2, and LDH 2565.
   - Appreciate nephrology recs
   - Paradoxic decrease in potassium due to renal wasting and potassium
   should be aggressively repleted per nephrology recs
   - Plan was serum bicarb of 20-34 in order to excrete UA, but as UA
   decreased, ? if need to still give bicarb.  Will ask renal.
   - Maintain adequate urine output for renal protection: has been 30-130
   cc/hr
   - Continue Aluminum Hydroxide as well as allopurinol to control phos
   and uric acid leves
   #. Hypotension: Likely caused by hypovolemia as patient has been fluid
   responsive with small boluses on the BMT floor. Additional supporting
   evidence is that patient has low urine output, thirst, and visibly dry
   mucous membranes. Patient is without ECHO evidence of systolic
   dysfunction.
   - Monitor closely during dialysis
   - Fluid bolus as needed to support blood pressure
   #. Hypoxia: Likely multifactorial with contributions from pneumonia,
   edema, and possible leukemic infiltrate. Patient with cough productive
   of thick yellow sputum at this time. Presented to the ICU on vancomycin
   and cefepime; however, his pneumonia likely a product of community
   exposure, so he should receive antibiotics for community pathogens. As
   far as edema is concerned, patient is clinically dry and has had
   relative hypotension, so diuresis would be difficult in this setting.
   - Treat AML as above
   - Send sputum for gram stain and culture
   - Continue vancomycin and cefepime
   - Addition of levofloxacin 750 mg Q48H (D1:[**1-8**]) for coverage of
   community-acquired pathogens
   #. Disseminated intravascular coagulation:
   Currently with FDP 80-160, INR 1.5, PLT 31, Fibrinogen 280. Patient has
   not required cryoprecipitate or FFP at this point. Platelet count is
   rapidly falling, and has been transfused X1 without evidence of
   bleeding
   - Monitor Q8H PTT, INR, FDP, fibrinogen, platelets
   - Trend HCT while platelets dropping and elevated INR
   - Treat fibrinogen < 100 with cryoprecipitate
   - Treat INR > 2.0 with FFP
   ICU Care
   Nutrition: Regular renal diet
   Lines:
   20 Gauge - [**2135-1-8**] 01:29 PM
   Pheresis line
   Prophylaxis:
   -PPI
   -DVT ppx with pneumoboots while concerned for DIC
   -Bowel regimen as needed for symptoms
   Communication:  [**First Name8 (NamePattern2) 1094**] [**Last Name (NamePattern1) 9968**] (daughter) [**Telephone/Fax (1) 9969**]; also is his HCP
   [**Name (NI) 129**] status: FULL, would not want long term life support
   Disposition: c/o if patient can come off of CVVH, will discuss with
   renal

2135-01-10 06:58:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Resident Progress Note
   Chief Complaint: Acute myeloid leukemia
   24 Hour Events:
   - Renal saw patient, said it is ok to stop CVVH, and will check lytes
   overnight to make sure he tolerates not being on CVVH, recommended
   alkalinizing urine to bicarb of 28-34
   - Given 1g IV Vanc, needs level checked 6pm [**1-10**], confirmed dose of
   other antibiotics
   - Had Hct of 21.8 this morning, given 1 unit PRBCs
   - BMT following, recommended decreased dose of hydroxyurea today
   (2500mg), can transfer out of MICU when stable, continue antibiotics,
   transfuse for Hct<25, plts <10 (or <20 if bleeding), check tumor lysis
   labs q8h
   Allergies:
   Penicillins
   angioedema;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-9**] 04:45 PM
   Cefipime - [**2135-1-9**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-10**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 76 (65 - 92) bpm
   BP: 118/58(73) {92/45(59) - 126/93(96)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 80.8 kg
             Total In:
                                                                  4,504 mL
                                                                    391 mL
   PO:
                                                                  1,800 mL
             TF:
   IVF:
                                                                  2,704 mL
                                                                    391 mL
   Blood products:
   Total out:
                                                                  2,899 mL
                                                                    880 mL
   Urine:
                                                                  2,215 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,605 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   Gen: NAD
   CV: RRR nl s1/s2 no mrg
   Pulm: CTAB
   Abd: +BS, soft NTND
   Ext: no edema, warm, NT
   Labs / Radiology
   17 K/uL
   7.4 g/dL
   114 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   35 mg/dL
   105 mEq/L
   140 mEq/L
   21.8 %
   2.4 K/uL
        [image002.jpg]
                            [**2135-1-8**]  06:36 PM
                            [**2135-1-9**]  04:10 AM
                            [**2135-1-9**]  09:50 AM
                            [**2135-1-9**]  03:34 PM
                            [**2135-1-9**]  09:53 PM
                            [**2135-1-10**]  04:21 AM
   WBC
   21.9
   10.0
   7.1
   5.1
   3.1
   2.4
   Hct
   25.9
   24.0
   25.1
   25.2
   23.0
   21.8
   Plt
   53
   31
   20
   21
   18
   17
   Cr
   1.4
   1.5
   1.4
   1.7
   1.8
   Glucose
   153
   119
   161
   153
   154
   114
   Other labs: PT / PTT / INR:15.0/35.0/1.3, ALT / AST:100/61, Alk Phos /
   T Bili:100/0.5, Differential-Neuts:44.0 %, Band:2.0 %, Lymph:8.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:286 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:1581 IU/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.7 mg/dL
   ALT: 100
   AP: 100
   Tbili: 0.5
   Alb: 2.4
   AST: 61
   LDH: 1581
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip:
   (past LDH 2565)
   Source: Line-right SC
   Other Hematology
   FDP: 10-40
   Fibrinogen: 286
   Blood 12/19 pending
   Urine [**1-8**] culture final no growth
   Blood 12/19 pending
   Blood 12/18 pending
   HCV VL, HBV VL [**1-7**] pending
   Assessment and Plan
   80 yo male with no significant PMH, admitted with AML, initial WBC 137
   with 88% blasts, uric acid of 22 on admission.
   #. Acute myeloid leukemia: Presented to hospital with approximately one
   week of fatigue, anorexia, and weight loss. Noted to have initial WBC
   count of 138k with 84% blasts. Was treated initially with leukopheresis
   and has hydroxyurea. Course has been complicated by tumor lysis
   syndrome and disseminated intravascular coagulation.
   - continue decreased dose of hydroxyurea today and tomorrow
   - readdress additional chemotherapy as per bone marrow transplant team,
   may plan for decitabine next week
   #. Tumor lysis syndrome: Laboratory evidence of tumor lysis has been
   worsening since initiation of treatment of AML but improved since
   dialysis. Has received rasburicase. Currently labs are stable after
   stopping CVVH.
   - Appreciate nephrology recs
   - Paradoxic decrease in potassium due to renal wasting and potassium
   should be aggressively repleted per nephrology recs
   - Will alkalinize urine per renal recs, currently giving 100cc/hr 150
   mEq Sodium Bicarb/1000ml D5W in order to prevent uric acid crystal
   accumulation
   - Maintain adequate urine output for renal protection
   - Continue Aluminum Hydroxide as well as allopurinol to control phos
   and uric acid levels
   #. Hypotension: Likely caused by hypovolemia as patient has been fluid
   responsive with small boluses on the BMT floor.  Patient is without
   ECHO evidence of systolic dysfunction.
   - Fluid bolus as needed to support blood pressure, did not require any
   fluid boluses overnight
   #. Hypoxia: Likely multifactorial with contributions from pneumonia,
   edema, and possible leukemic infiltrate.
   - Treat AML as above
   - Send sputum for gram stain and culture, may need to reorder
   - Continue vancomycin, cefepime (d1 [**1-7**]), and levofloxacin (d1 [**1-8**])
 have confirmed levels but will need to follow-up vanc level at 6pm
   today.  Will treat for 8 day course.
   #. Disseminated intravascular coagulation/Anemia: Currently fibrinogen,
   coags, FDP stable.  Patient has not required cryoprecipitate or FFP at
   this point.  Platelet count dropping but no signs of bleeding.
   - Monitor Q8H PTT, INR, FDP, fibrinogen, platelets
   - Treat fibrinogen < 100 with cryoprecipitate
   - Treat INR > 2.0 with FFP
   - Transfuse for platelets <10 if not bleeding, <20 if bleeding
   - Transfuse for Hct<25, will give 1 unit PRBCs this am and recheck
   post-transfusion Hct
   - Feel that anemia is likely secondary to hydroxyurea administration,
   but will add on hapto to am labs to evaluate for hemolysis
   ICU Care
   Nutrition: Regular renal diet
   Glycemic Control:
   Lines: 20 Gauge - [**2135-1-8**] 01:29 PM
   Pheresis Catheter - [**2135-1-8**] 01:30 PM
   Prophylaxis:
   DVT: PPI
   Stress ulcer: DVT ppx with pneumoboots while concerned for DIC
   VAP:
   Comments: Bowel regimen as needed for symptoms
   Communication:  Comments: [**First Name8 (NamePattern2) 1094**] [**Last Name (NamePattern1) 9968**] (daughter) [**Telephone/Fax (1) 9969**]; also is
   his HCP
   [**Name (NI) 129**] status: FULL, would not want long term life support
   Disposition: Likely can be called out to floor today (BMT service)

2135-01-10 10:28:00 Physician Attending Progress Note
Chief Complaint: DIC, TLS, arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 M with newly diagnosed AML complicated by TLS and DIC, transferred
   to the ICU for hemodialysis for hyperphosphatemia.
   24 Hour Events:
   CVVH stopped yesterday
   transfused 1 unit prbc this morning for hct 21
   Allergies:
   Penicillins
   angioedema;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2135-1-9**] 04:45 PM
   Cefipime - [**2135-1-10**] 08:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-1-10**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 73 (65 - 92) bpm
   BP: 104/48(63) {92/45(59) - 120/93(97)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 84.2 kg (admission): 80.8 kg
           Total In:
                                                                  4,504 mL
                                                                  1,302 mL
   PO:
                                                                  1,800 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  2,704 mL
                                                                    527 mL
   Blood products:
   295 mL
   Total out:
                                                                  2,899 mL
                                                                  1,620 mL
   Urine:
                                                                  2,215 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,605 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive and appropriate
   Labs / Radiology
   7.4 g/dL
   17 K/uL
   114 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   35 mg/dL
   105 mEq/L
   140 mEq/L
   21.8 %
   2.4 K/uL
        [image002.jpg]
                            [**2135-1-8**]  06:36 PM
                            [**2135-1-9**]  04:10 AM
                            [**2135-1-9**]  09:50 AM
                            [**2135-1-9**]  03:34 PM
                            [**2135-1-9**]  09:53 PM
                            [**2135-1-10**]  04:21 AM
   WBC
   21.9
   10.0
   7.1
   5.1
   3.1
   2.4
   Hct
   25.9
   24.0
   25.1
   25.2
   23.0
   21.8
   Plt
   53
   31
   20
   21
   18
   17
   Cr
   1.4
   1.5
   1.4
   1.7
   1.8
   Glucose
   153
   119
   161
   153
   154
   114
   Other labs: PT / PTT / INR:15.0/35.0/1.3, ALT / AST:100/61, Alk Phos /
   T Bili:100/0.5, Differential-Neuts:44.0 %, Band:2.0 %, Lymph:8.0 %,
   Mono:3.0 %, Eos:0.0 %, Fibrinogen:286 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:1581 IU/L, Ca++:7.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.7 mg/dL
   Microbiology: [**1-7**] and 19 bl pending
   urine [**1-8**]-neg
   hcv hbv pending
   Assessment and Plan
   80 M with newly diagnosed AML complicated by TLS and DIC, transferred
   to the ICU for hemodialysis for hyperphosphatemia.
   Primary issues include:
   # Tumor Lysis Syndrome
   - labs much improved
   -CVVH stopped yesterday
   -continue alkalinization of urine, follow uric acid level
   - q8 hr tumor lysis labs
   --monitor urine outpt and renal fx closely
   # AML
   -Receiving hydroxyurea,
   -BMT regarding plan for additional chemotherapy
   # DIC:
   --follow serial labs
   --transfuse for platelets <20K,
         INR > 2, ffp
        fibrinogen <100, cryoprecipitate
   --Given decline in hct, suspect hydroxyurea effect
   --Monitor for hemolysis
   # Hypoxemia: ? secondary to pneumonia v. edema v. leukemic effect,
   improved
   - continue day [**4-28**] empiric vanc/cefepime/l day [**3-28**] levofloxacin, given
   functional neurtopenia
   --follow pending cx data
    Remainder as per resident note
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2135-1-8**] 01:30 PM
   20 Gauge - [**2135-1-10**] 08:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : d/w bmt regarding floor transfer
   Total time spent: 35 minutes